US07348359B2
A mixture of 0.450 mmol of 2-fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid ethyl ester, 3 mL of THF, 3 mL of methanol and 1 mL of LiOH (2N aqueous) was refluxed for 2 hours. After cooling at room temperature, the mixture was acidified to pH=2 and extracted with ethyl acetate. The organic layer was dried over MgSO4 and after evaporation of the solvents, the crude acid was recrystallized from acetonitrile. (E)-2-Fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid was isolated as a white solid. 1H-NMR (CDCl3), δ: 7.83 (d, J=7.7 Hz, 1H), 7.49 (broad s, 1H), 7.46 (s, 1H), 7.42 (t, J=7.0 Hz, 2H), 7.18 (d, J=2.1 Hz, 1H), 7.00 (d, J=2.1 Hz, 1H), 3.42 (dt, J=13.7, 6.8 Hz, 1H), 3.32 (m, 1H), 3.19 (m, 1H), 2.92 (dt, J=13.8, 6.9 Hz, 1H), 1.29 (m, 14H), 1.22 (m, 2H), 0.45 (t, J=7.3 Hz, 3H).

reactant | 2-fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid ethyl ester | 0.450 mmol | C(C)OC(C(=CC1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC)F)=O | C28H33FO3S
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | LiOH | 2N, 1 mL | [Li+].[OH-]
solvent | methanol | 3 mL | CO | CH4O
product | (E)-2-Fluoro-3-[4-(2-n-propoxy-3,5-di-iso-propylphenyl)-benzo[b]thien-2-yl]-prop-2-enoic acid | F\C(\C(=O)O)=C\C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)C)C(C)C)OCCC | C26H29FO3S
